US06605629B1
A mixture of 2-chloro-4-(4-chlorophenyl)-5-[3-(2-methoxyphenoxy)propyl]oxazole (378 mg), an aqueous solution of dimethylamine (50%, 1.0 ml) and 2-butanone (10 ml) was stirred with heating under reflux for 12 hours. The reaction mixture was concentrated, the residue obtained was subjected to silica gel column chromatography, and 4-(4-chlorophenyl)-2-dimethylamino-5-[3-(2-methoxyphenoxy)propyl]oxazole was obtained as an oil (348 mg, 90%) from an ethyl acetate-hexane (1:4, v/v)-eluted fraction. Crystallization from acetone-hexane gave pale yellow prisms. Melting point 67-68° C.

reactant | 2-chloro-4-(4-chlorophenyl)-5-[3-(2-methoxyphenoxy)propyl]oxazole | 378 mg | ClC=1OC(=C(N1)C1=CC=C(C=C1)Cl)CCCOC1=C(C=CC=C1)OC | C19H17Cl2NO3
reactant | dimethylamine | 1.0 ml | CNC | C2H7N
reactant | 2-butanone | 10 ml | CC(CC)=O | C4H8O
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 4-(4-chlorophenyl)-2-dimethylamino-5-[3-(2-methoxyphenoxy)propyl]oxazole | ClC1=CC=C(C=C1)C=1N=C(OC1CCCOC1=C(C=CC=C1)OC)N(C)C | C21H23ClN2O3
